US07495007B2
In a manner similar to the method described in example 4d, racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(3-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester (0.35 g, 0.65 mmol) was reacted with NaOH (2N, 5 mL, 10 mmol) in methanol to give racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(3-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as a white solid (Yield 0.25 g, 83%).

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(3-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester | 0.65 mmol, 0.35 g | C(C)OC(=O)N1C(C2(C(NC(CC2C2=CC(=CC=C2)Cl)=O)C2=C(C(=CC=C2)F)C)C2=CC=C(C=C12)Cl)=O | C28H23Cl2FN2O4
reactant | NaOH | 10 mmol, 2N, 5 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(3-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield 0.25 g, 83% | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C(=CC=C1)F)C)=O | C25H19Cl2FN2O2
